US08466114B2
To a stirred solution of (3R,4S,5S,6R)-2-[4-bromo-3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-phenyl]-6-hydroxymethyl-2-methoxy-tetrahydro-pyran-3,4,5-triol (28.4 g, 57.1 mmol) in acetonitrile-dichloromethane 1:1 (250 mL) was added triethylsilane (36.5 mL, 228.4 mmol) and boron trifluoride diethyletharate complex (14.1 mL, 114.2 mmol) at 10° C. After stirring for 4 h at 10° C., the reaction was quenched with saturated aqueous sodium bicarbonate (˜100 mL). The organic layer was separated, and the aqueous layer was extracted with ethyl acetate (3×150 mL). The organic layers were combined and dried over sodium sulfate, concentrated to furnish (3R,4R,5S,6R)-2-[4-bromo-3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol (28.4 g). Crude product was used for next reaction without purification.

reactant | (3R,4S,5S,6R)-2-[4-bromo-3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-phenyl]-6-hydroxymethyl-2-methoxy-tetrahydro-pyran-3,4,5-triol | 57.1 mmol, 28.4 g | BrC1=C(C=C(C=C1)C1(O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OC)CC1=CC2=C(OCCO2)C=C1 | C22H25BrO8
reactant | triethylsilane | 228.4 mmol, 36.5 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride | B(F)(F)F | BF3
solvent | acetonitrile dichloromethane | 250 mL | C(C)#N.ClCCl
product | (3R,4R,5S,6R)-2-[4-bromo-3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol | 28.4 g | BrC1=C(C=C(C=C1)C1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC1=CC2=C(OCCO2)C=C1 | C21H23BrO7
